US06436929B1
6-(3-Chlorophenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-thione
A mixture of 6-(3-chlorophenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one (0.15 g, 0.5 mmol) and Lawesson's reagent (0.24 g, 0.6 mmol) in anhydrous o-xylene was heated at reflux under nitrogen for 3 hours. The solvent was removed and the residue was purified by a flash chromatography (silica gel, hexane:ethyl acetate/6:1) to afford the title compound as a white solid (80 mg, 52%): mp 183-184° C.; 1H-NMR (DMSO-d6) δ12.25 (s, 1H, D2O exchangeable), 7.78 (t, 1H, J=1.7 Hz), 7.63-7.70 (m, 3H), 7.49 (t, 1H, J=7.8 Hz), 7.42 (d, 1H, J=8.1 Hz), 7.12 (d, 8.8 Hz), 1.72 (s, 6H); MS (EI) m/z 303 (M+, 100%), 305 (M+, 32%); Anal. Calc. For C16H14ClNOS: C, 63.26; H, 4.64; N, 4.61. Found: C, 63.37; H, 4.62; N, 4.54.

reactant | 6-(3-chlorophenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 0.5 mmol, 0.15 g | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C16H14ClNO2
reactant | Lawesson's reagent | 0.6 mmol, 0.24 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | o-xylene | CC=1C=CC=CC1C | C8H10
product | 6-(3-Chlorophenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-thione | 80 mg, 52% | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=S)C=C1 | C16H14ClNOS
